US04654348
2-Methyl-3-hydroxy-7-methoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine
1.5 g of 2-methyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine was suspended in 35 ml of methanol, and 1.25 g of anhydrous potassium carbonate and 1.07 g of methyl chloroacetate were sequentially added. The mixture was heated at 60° C. for 18 hours. Then, the solvent was distilled off. Water was added to the residue, and the residue was dissolved. Chloroform-soluble substances were extracted with chloroform and removed. Then, the aqueous layer was acidified with 1:1 hydrochloric acid, and the precipitated solid was extracted with chloroform. This chloroform layer was washed with water, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off. The remaining solid was recrystallized from acetone-chloroform.

reactant | 2-methyl-3-hydroxy-7-mercapto-pyrazolo [4,3-d]pyrimidine | 1.5 g | CN1N=C2C(N=CN=C2S)=C1O | C6H6N4OS
reactant | potassium carbonate | 1.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 1.07 g | ClCC(=O)OC | C3H5ClO2
solvent | methanol | 35 ml | CO | CH4O
product | 2-Methyl-3-hydroxy-7-methoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine | CN1N=C2C(N=CN=C2SCC(=O)OC)=C1O | C9H10N4O3S
